US05563147
3-(2-(1,2,3,4-Tetrahydropyrido[3,4-b]indol-2-yl)ethyl)benzoxazolin-2-one
Potassium carbonate (0.828 g, 6 mmol), 3-(2-mesyloxyethyl)benzoxazolin-2-one (1.494 g, 5.814 mmol) and 1,2,3,4-tetrahydropyrido[3,4-b]indole (1 g, 5.814 mmol) in acetonitrile (30 ml) were heated under reflux under nitrogen for 16 hours. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate (80 ml) and water (30 ml). The water was separated and hydrochloric acid (0.5M, 40 ml) was added. The resultant white precipitate was collected by filtration and suspended in sodium hyroxide (2M, 60 ml) and washed with chloroform (3×50 ml). The combined chloroform extracts were washed with water (30 ml), dried (MgSO4), and the solvent filtered and evaporated in vacuo. The residue was treated with diethyl ether/ethyl acetate (3:1, 40 ml) and a fine flocculent precipitate resulted. The resultant filtrate was evaporated in vacuo and the residue chromatographed on silica (ethyl acetate 40-60 petrol 3:2) to give the title product, melting point 135°-137° C.

reactant | Potassium carbonate | 6 mmol, 0.828 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-mesyloxyethyl)benzoxazolin-2-one | 5.814 mmol, 1.494 g | S(=O)(=O)(C)OCCN1C(OC2=C1C=CC=C2)=O | C10H11NO5S
reactant | 1,2,3,4-tetrahydropyrido[3,4-b]indole | 5.814 mmol, 1 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(2-(1,2,3,4-Tetrahydropyrido[3,4-b]indol-2-yl)ethyl)benzoxazolin-2-one | C1N(CCC2=C1NC1=CC=CC=C21)CCN2C(OC1=C2C=CC=C1)=O | C20H19N3O2
